US07335655B2
To a solution of ethyl (5-carboxy-1-methylpyrazol-3-yl)oxyacetate (0.5 mmol) and EDCI (0.5 mmol) in methanol (20 mL) was added a solution of 1,3-diallyl-5,6-diaminouracil (0.5 mmol), dissolved in methanol (20 mL). The mixture was stirred at room temperature for two hours, the solvent was then removed in vacuo, water added, and the solid that formed was collected by filtration and washed with additional cold water. The intermediate amide was heated in 20 mL of 2.5 N NaOH at 70° C. for 30 minutes to afford the desired 2-[5-(1,3-diallyl-xanthin-8-yl)-1-methylpyrazol-3-yloxy]acetic acid.

reactant | ethyl (5-carboxy-1-methylpyrazol-3-yl)oxyacetate | 0.5 mmol | C(=O)(O)C1=CC(=NN1C)OCC(=O)OCC | C9H12N2O5
reactant | EDCI | 0.5 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1,3-diallyl-5,6-diaminouracil | 0.5 mmol | C(C=C)N1C(=O)N(C(=O)C(=C1N)N)CC=C | C10H14N4O2
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 2-[5-(1,3-diallyl-xanthin-8-yl)-1-methylpyrazol-3-yloxy]acetic acid | C(C=C)N1C(=O)N(C=2N=C(NC2C1=O)C1=CC(=NN1C)OCC(=O)O)CC=C | C17H18N6O5
